US06825191B2
Step 3: Synthesis of Diethyl [2-(4-(4-chlorobenzoyl)-2-oxo-1-(4-(1-pyrrolidinecarbonyl)benzyl)-2,3,4,5-tetrahydro-1H-benzo[e][1,4]-diazepin-8-yl)ethyl]phosphonate
240 mg (0.47 mmol) of ethyl ((4-chlorobenzoyl)-(4-(2-(diethoxyphosphoryl)ethyl)-2-aminobenzyl)amino)acetate and 105 mg (0.52 mmol) of 4-(1-pyrrolidinecarbonyl)benzaldehyde were dissolved in 10 ml of dichloromethane. 0.054 ml (0.94 mmol) of acetic acid was added to the obtained solution. They were stirred at room temperature for 30 minutes. 248 mg (1.18 mmol) of sodium triacetoxyborohydride was added to the obtained mixture and they were stirred at room temperature overnight. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the obtained crude product was dissolved in a mixture of 4 ml of 1 N sodium hydroxide and 2 ml of ethanol, and the solution was stirred at room temperature for 5 hours. After the treatment with ethyl acetate by an ordinary method, the obtained crude product was dissolved in 10 ml of dichloromethane. 95 mg (0.56 mmol) of 2-chloro-1,3-dimethylimidazonium chloride and 0.14 ml (0.94 mmol) of triethylamine were added to the obtained solution, and they were stirred overnight. The solvent was evaporated and the obtained crude product was treated in the same manner as in step 3 in Example 1 to obtain the title compound.

reactant | ethyl ((4-chlorobenzoyl)-(4-(2-(diethoxyphosphoryl)ethyl)-2-aminobenzyl)amino)acetate | 0.47 mmol, 240 mg | ClC1=CC=C(C(=O)N(CC2=C(C=C(C=C2)CCP(=O)(OCC)OCC)N)CC(=O)OCC)C=C1 | C24H32ClN2O6P
reactant | 4-(1-pyrrolidinecarbonyl)benzaldehyde | 0.52 mmol, 105 mg | N1(CCCC1)C(=O)C1=CC=C(C=O)C=C1 | C12H13NO2
reactant | acetic acid | 0.94 mmol, 0.054 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.18 mmol, 248 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 0.94 mmol, 0.14 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | sodium hydroxide | 1 N, 4 ml | [OH-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Diethyl [2-(4-(4-chlorobenzoyl)-2-oxo-1-(4-(1-pyrrolidinecarbonyl)benzyl)-2,3,4,5-tetrahydro-1H-benzo[e][1,4]-diazepin-8-yl)ethyl]phosphonate | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC(=C3)CCP(OCC)(OCC)=O)CC3=CC=C(C=C3)C(=O)N3CCCC3)=O)C=C1 | C34H39ClN3O6P
